US07585874B2
8-Chloro-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine
As described for Example 1, 4-(bromoacetyl)-5-methyl-3-phenylisoxazole (commercially available) (140 mg, 0.5 mmol) was converted, using 2-amino-3-chloropyridine instead of 2-aminopyridine, to the title compound (117 mg, 76%) which was obtained as a yellow foam. MS: m/e=310.3 [M+H]+.

reactant | 4-(bromoacetyl)-5-methyl-3-phenylisoxazole | BrCC(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C12H10BrNO2
reactant | 2-amino-3-chloropyridine | NC1=NC=CC=C1Cl | C5H5ClN2
product | 8-Chloro-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine | 117 mg, 76% | ClC=1C=2N(C=CC1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C17H12ClN3O
